US07923456B2
Step 1: 5-(2-Fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid
To a solution of 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid methyl ester (140 mg, 0.34 mmol) in anhydrous 1,2-dichloroethane (2.5 mL) was added trimethyltin hydroxide (215 mg, 1.19 mmol, 3.5 eq.). The reaction mixture was heated at 85° C. for 1 hour and then cooled to RT. The reaction mixture was concentrated in vacuo, and the crude residue was diluted with ethyl acetate. The organic layer was washed with 1N HCl (3×), water and brine, dried (Na2SO4), filtered and concentrated in vacuo. Crystallization from dichloromethane-ether-hexane afforded the title compound as a yellow solid (132.1 mg, 97.7%). 1H NMR (MeOD, 400 MHz) δ ppm 8.76 (s, 1H), 7.92 (s, 1H), 7.86 (s, 1H), 7.64 (dd, J=10.13, 1.84 Hz, 1H), 7.55-7.50 (m, 1H), 6.72 (t, J=8.49 Hz, 1H); LCMS (method D1): RT=0.77 min, [M+H]=399.

reactant | 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid methyl ester | 0.34 mmol, 140 mg | COC(=O)C=1N=CC=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2 | C14H10FIN4O2
reactant | trimethyltin hydroxide | 1.19 mmol, 215 mg, 3.5 eq. | [OH-].C[Sn+](C)C
solvent | 1,2-dichloroethane | 2.5 mL | ClCCCl | C2H4Cl2
product | 5-(2-Fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid | 132.1 mg, 97.7% | FC1=C(C=CC(=C1)I)NC1=C(N=CC=2N1C=NC2)C(=O)O | C13H8FIN4O2
